US08211914B2
To a mixture of 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-piperidin-4-yl-phenyl)-amide (227 mg, 0.55 mmol), 4-bromobenzoic acid tert-butyl ester (170 mg, 0.66 mmol), sodium tert-butoxide (106 mg, 1.1 mmol) and (2′,4′,6′-triisopropyl-1,1′-biphenyl-2-yl)dicyclohexylphosphine (X-PHOS, 38 mg) in dioxane (5 mL) bubbled with argon was added tris(dibenzylideneacetone)dipalladium Pd2(dba)3 (23 mg). The mixture was heated at 105° C. for 2 hrs. Solvents were evaporated and the residue was extracted with ethyl acetate and 0.1N hydrochloric acid. The organic layer was dried and concentrated. The residue was crystallized from ethyl acetate to give a pale yellow solid as 4-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidin-1-yl)-benzoic acid tert-butyl ester (40 mg).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-piperidin-4-yl-phenyl)-amide | 0.55 mmol, 227 mg | N1CCC(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C22H20F3N3O2
reactant | 4-bromobenzoic acid tert-butyl ester | 0.66 mmol, 170 mg | C(C)(C)(C)OC(C1=CC=C(C=C1)Br)=O | C11H13BrO2
reactant | sodium tert-butoxide | 1.1 mmol, 106 mg | CC(C)([O-])C.[Na+]
reactant | (2′,4′,6′-triisopropyl-1,1′-biphenyl-2-yl)dicyclohexylphosphine | 38 mg | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1 | C33H49P
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 4-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidin-1-yl)-benzoic acid tert-butyl ester | 40 mg | C(C)(C)(C)OC(C1=CC=C(C=C1)N1CCC(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)=O | C33H32F3N3O4
